US04628057
A mixture of DL-tryptophan methyl ester hydrochloride (30.49 g), n-valeraldehyde (12.4 g) and methanol (400 ml) is refluxed for 48 hours and then concentrated to about 1/5 volume. After cooling, the precipitates are separated by filtration and recrystallized from methanol to give methyl (1RS,3RS)-cis-1-butyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate hydrochloride (20.5 g, 53%), m.p. 218° C. (decomp.) The hydrochloride thus obtained is treated with aqueous ammonia and recrystallized from diisopropyl ether-isopropanol to give the corresponding free base, m.p. 85°-87° C.

reactant | DL-tryptophan methyl ester hydrochloride | 30.49 g | Cl.COC(C(N)CC1=CNC2=CC=CC=C12)=O
reactant | n-valeraldehyde | 12.4 g | CCCCC=O | C5H10O
solvent | methanol | 400 ml | CO | CH4O
product | methyl (1RS,3RS)-cis-1-butyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate hydrochloride | 20.5 g, 53% | Cl.C(CCC)[C@@H]1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)OC | InChI=1S/C17H22N2O2.ClH/c1-3-4-8-14-16-12(10-15(18-14)17(20)21-2)11-7-5-6-9-13(11)19-16;/h5-7,9,14-15,18-19H,3-4,8,10H2,1-2H3;1H/t14-,15-;/m0./s1
